US08426411B2
In a 5 L round bottom flask, sodium 4-(ethoxycarbonyl)-2-(methoxycarbonyl)-3-methylcyclo-penta-1,3-dienolate (485 g, 1954 mmol), KCl (204 g, 2736 mmol, JT Baker), and AcOH (392 mL, 6839 mmol, JT Baker) in toluene (1200 mL) and water (1200 mL) were heated at reflux for about 6 h. The reaction mixture was allowed to cool to ambient temperature for about 16 h. The reaction mixture was then poured into a 12 L flask and diluted with water (3 L). Solid NaHCO3 (450 g, 5.3 mol) was added cautiously portionwise with stirring over about 1 h. After an additional about 30 min of stirring, the basic aqueous phase was separated and further extracted with Et2O (4×400 mL). The combined organic layers were washed with water (4×500 mL) and saturated brine (500 mL), dried over anhydrous MgSO4, filtered, and concd under reduced pressure to yield a yellow oil that was purified by vacuum distillation (about 92-94° C. at about 0.4 mmHg) to give ethyl 2-methyl-4-oxocyclopent-2-enecarboxylate (229 g, 69%) as a yellow oil: 1H NMR (CDCl3) δ 6.04-6.01 (m, 1H), 4.26-4.17 (m, 2H), 3.67 (m, 1H), 2.72 (m, 1H), 2.62 (m, 1H), 2.16 (s, 3H), 1.32-1.27 (t, J=7.1 Hz, 3H).

reactant | sodium 4-(ethoxycarbonyl)-2-(methoxycarbonyl)-3-methylcyclo-penta-1,3-dienolate | 1954 mmol, 485 g | C(C)OC(=O)C1=C(C(=C(C1)[O-])C(=O)OC)C.[Na+]
reactant | KCl | 2736 mmol, 204 g | [Cl-].[K+]
reactant | AcOH | 6839 mmol, 392 mL | CC(=O)O | C2H4O2
reactant | NaHCO3 | 5.3 mol, 450 g | C(=O)(O)[O-].[Na+]
solvent | toluene | 1200 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | 1200 mL | O | H2O
solvent | water | 3 L | O | H2O
product | ethyl 2-methyl-4-oxocyclopent-2-enecarboxylate | 229 g, 69% | CC=1C(CC(C1)=O)C(=O)OCC | C9H12O3
